US09340510B2
N—((S)-1-{4-[6-(2,2-Difluoro-cyclopropylmethoxy)-3,4-dihydro-1H-isoquinolin-2-ylmethyl]-phenyl}-ethyl)-propionamide
4.09 mg (10.0 μmol) (S)-1-{4-[6-(2,2-Difluoro-cyclopropylmethoxy)-3,4-dihydro-1H-isoquinolin-2-ylmethyl]-phenyl}-ethylamine hydrochloride (example XXXIII.1) and 5.58 μl (40.0 μmol) TEA in 0.5 mL THF are stirred at r.t. Then 3.87 μL (30.0 μmol) propionic anhydride are added and the resulting mixture is stirred at r.t. over night. The reaction is quenched by the addition of 25 μL aq. K2CO3 solution (c=3 mol/L), filtered over basic aluminum oxide and concentrated by evaporation.

reactant | (S)-1-{4-[6-(2,2-Difluoro-cyclopropylmethoxy)-3,4-dihydro-1H-isoquinolin-2-ylmethyl]-phenyl}-ethylamine hydrochloride | 10.0 μmol, 4.09 mg | Cl.FC1(C(C1)COC=1C=C2CCN(CC2=CC1)CC1=CC=C(C=C1)[C@H](C)N)F
reactant | propionic anhydride | 30.0 μmol, 3.87 μL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N—((S)-1-{4-[6-(2,2-Difluoro-cyclopropylmethoxy)-3,4-dihydro-1H-isoquinolin-2-ylmethyl]-phenyl}-ethyl)-propionamide | FC1(C(C1)COC=1C=C2CCN(CC2=CC1)CC1=CC=C(C=C1)[C@H](C)NC(CC)=O)F | C25H30F2N2O2
